US09169254B2
1-(3,5-dimethyl-4-{1-methyl-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-1-methyl-urea (Compound 741)
A 1 M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (0.31 mL, 0.306 mmol) was added to a mixture of trimethylsulfoxonium iodide (29 mg, 0.131 mmol) in 1,3-dimethyl-2-imidazolidinone (2 mL) at room temperature. The reaction solution was stirred at room temperature for 0.5 hour. A mixed solution of (3,5-dimethyl-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-methyl-carbamic acid tert-butyl ester (50 mg, 0.0873 mmol) in 1,3-dimethyl-2-imidazolidinone (2 mL) was then added at room temperature, and the mixture was heated with stirring at 50° C. for 15 hours. After returning to room temperature, an aqueous ammonium chloride solution and ethyl acetate were added to the reaction solution. The organic layer and the aqueous layer were separated, and the aqueous layer was repeatedly extracted with ethyl acetate three times. The organic layers were combined, washed with water twice and saturated brine, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give a mixture of (3,5-dimethyl-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-cyclopropyl}-phenyl)-methyl-carbamic acid tert-butyl ester. This mixture was used in the next reaction as such without further purification.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 0.306 mmol, 0.31 mL | O1CCCC1 | C4H8O
reactant | trimethylsulfoxonium iodide | 0.131 mmol, 29 mg | [I-].C[S+](=O)(C)C
reactant | (3,5-dimethyl-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-methyl-carbamic acid tert-butyl ester | 0.0873 mmol, 50 mg | C(C)(C)(C)OC(N(C)C1=CC(=C(C(=C1)C)\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)=O | C30H44N4O5S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | (3,5-dimethyl-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-cyclopropyl}-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC(=C(C(=C1)C)C1C(C1)S(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)=O | C31H46N4O5S
solvent | 1,3-dimethyl-2-imidazolidinone | 2 mL | CN1C(N(CC1)C)=O | C5H10N2O
solvent | 1,3-dimethyl-2-imidazolidinone | 2 mL | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,5-dimethyl-4-{1-methyl-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-1-methyl-urea | CC=1C=C(C=C(C1C(=CS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)C)N(C(=O)N)C | C27H39N5O4S
